US04490369
(c) 1-[8-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane dihydrochloride
This compound was prepared analogous to Example 5(b) by reaction of 1-(8-methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane with N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine.

reactant | 1-(8-methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC=1C=CC2=C(CC(N(CC2)CCCCl)=O)C1 | C14H18ClNO2
reactant | N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
product | 1-[8-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane dihydrochloride | Cl.Cl.COC=1C=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C1 | InChI=1S/C25H34N2O4.2ClH/c1-26(14-10-19-6-9-23(30-3)24(16-19)31-4)12-5-13-27-15-11-20-7-8-22(29-2)17-21(20)18-25(27)28;;/h6-9,16-17H,5,10-15,18H2,1-4H3;2*1H
